US04772704
5-Amino-2-[3-(3-piperidinomethylphenoxy)propylamino]-4(3H)-pyrimidone
A suspension of 5-carbethoxyamino-2-[3-(3-piperidinomethylphenoxy)propylamino]-4(3H)-pyrimidone (1.70 g; 3.96 mmoles) in 11.3 ml (28.3 meq.) of 10% aqueous NaOH was heated at an oil bath temperature of 120° C. for 20 minutes. The reaction mixture was neutralized with acetic acid and evaporated under reduced pressure. The residue was placed on 250 g of silica gel (230-400 mesh) and chromatographed by flash chromatography using CH2Cl2 /CH3OH/NH4OH (80:20:1) as the eluent. The appropriate fractions containing product were combined, evaporated and treated wih ethanolic hydrochloric acid, and then diluted with ether to give 0.28 g of the title compound as its hydrochloride salt. The NMR spectrum (100 MHz) in d6 dimethyl sulfoxide gave the following resonances δ: 7.14 (m, 4H); 6.94 (s, 1H); 4.0 (m, 4H); 3.32 (t, 2H); 2.84 (m, 4H); 1.94 (m, 2H); 1.66 (m, 6H).

reactant | 5-carbethoxyamino-2-[3-(3-piperidinomethylphenoxy)propylamino]-4(3H)-pyrimidone | 3.96 mmoles, 1.70 g | C(=O)(OCC)NC=1C(NC(=NC1)NCCCOC1=CC(=CC=C1)CN1CCCCC1)=O | C22H31N5O4
reactant | NaOH | 11.3 ml, 28.3 meq. | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-Amino-2-[3-(3-piperidinomethylphenoxy)propylamino]-4(3H)-pyrimidone | 0.28 g | NC=1C(NC(=NC1)NCCCOC1=CC(=CC=C1)CN1CCCCC1)=O | C19H27N5O2
